US06313122B1
Preparation of N1-(5-Chlorofuran-2-ylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine Hydrochloride
Using the procedure described in Example 168, N1-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine (0.61 mmol) and 5-chloro-2-furancarboxylic acid (1.2 mmol), purifying with RPHPLC Method A, yielded 57 mg (22%) of the title compound.

reactant | N1-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine | 0.61 mmol | N1=CC=C(C=C1)C(OC(=O)NC=1C(=CC=CC1)N)C1CCNCC1 | C18H22N4O2
reactant | 5-chloro-2-furancarboxylic acid | 1.2 mmol | ClC1=CC=C(O1)C(=O)O | C5H3ClO3
product | N1-(5-Chlorofuran-2-ylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine Hydrochloride | 57 mg, 22% | Cl.ClC1=CC=C(O1)C(=O)NC=1C(=CC=CC1)NC(=O)OC(C1=CC=NC=C1)C1CCNCC1 | InChI=1S/C23H23ClN4O4.ClH/c24-20-6-5-19(31-20)22(29)27-17-3-1-2-4-18(17)28-23(30)32-21(15-7-11-25-12-8-15)16-9-13-26-14-10-16;/h1-8,11-12,16,21,26H,9-10,13-14H2,(H,27,29)(H,28,30);1H
